US07407959B2
Step 1: Preparation of 1-(4-bromophenyl)-2,2,2-trifluoroethanol
To a room temperature solution of commercial 4′-bromo-2,2,2-trifluoroacetophenone (100 mg) in 1.9 mL of methanol was added sodium borohydride (15 mg). The mixture was stirred at room temperature overnight. Water was added, extracted with methyl t-butyl ether (3×20 mL) washed with water and brine. It was dried with magnesium sulfate and the solvent removed under reduced pressure to yield the title compound and it was used as such for the next step.

reactant | 4′-bromo-2,2,2-trifluoroacetophenone | 100 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 1.9 mL | CO | CH4O
product | 1-(4-bromophenyl)-2,2,2-trifluoroethanol | BrC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6BrF3O
